US07482452B2
The (R)-3-hydroxypyrrolidine-1-carbaldehyde (31 g) was treated with dihydropyran (36.8 ml) and p-toluenesulphonic acid (1 g). The mixture was stirred at room temperature for approximately one hour, during which time the colour changed from yellow to dark purple. GC analysis showed the reaction was complete. The reaction was quenched by addition of saturated sodium bicarbonate solution (90 ml). The aqueous phase was extracted with DCM (3×90 ml). The combined organic phase was washed with saturated sodium chloride solution (90 ml), then dried over MgSO4 and concentrated at below 30° C. The product, 3-(tetrahydropyran-2-yloxy)pyrrolidine-1-carbaldehyde, was obtained in 100% yield, 54.5 g. GC analysis showed two adjacent peaks, RT 14.45 and 14.83 min, 49.7 and 47.1% respectively. δH (CDCl3) 8.22 and 8.27 (1H, 2×s), 4.60-4.75 (1H, m), 4.35-4.50 (1H, m), 3.80-3.95 (1H, m), 3.40-3.70 (5H, m), 1.40-2.20 (8H, m).

reactant | (R)-3-hydroxypyrrolidine-1-carbaldehyde | 31 g | O[C@H]1CN(CC1)C=O | C5H9NO2
reactant | dihydropyran | 36.8 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-(tetrahydropyran-2-yloxy)pyrrolidine-1-carbaldehyde | 100% yield | O1C(CCCC1)OC1CN(CC1)C=O | C10H17NO3
